US07230098B2
N-{4-[6-Amino-5-(2-cyano-benzyloxy)-pyridin-3-yl]-phenyl}-methanesulfonamide was prepared following procedure 3 from 2-(2-Amino-5-bromo-pyridin-3-yloxymethyl)-benzonitrile and N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide.

reactant | 2-(2-Amino-5-bromo-pyridin-3-yloxymethyl)-benzonitrile | NC1=NC=C(C=C1OCC1=C(C#N)C=CC=C1)Br | C13H10BrN3O
reactant | N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NS(=O)(=O)C)C | C13H20BNO4S
product | N-{4-[6-Amino-5-(2-cyano-benzyloxy)-pyridin-3-yl]-phenyl}-methanesulfonamide | NC1=C(C=C(C=N1)C1=CC=C(C=C1)NS(=O)(=O)C)OCC1=C(C=CC=C1)C#N | C20H18N4O3S
